US08877774B2
Step 5. 3-(3-(Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)propyl 4-((1,3-dioxolan-2-yl)methyl)benzoate
The title compound was prepared as described in Chiral Example 11 Step 2 with (R)-quinuclidin-3-yl((3-(3-hydroxypropoxy)phenyl)(phenyl)methyl)carbamate and 4-(1,3-dioxolan-2-ylmethyl)-benzoic acid replacing 4-((3-(phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoic acid and 1-amino-3,3-diethoxypropane, respectively.

reactant | (R)-quinuclidin-3-yl((3-(3-hydroxypropoxy)phenyl)(phenyl)methyl)carbamate | N12C[C@@H](C(CC1)CC2)OC(NC(C2=CC=CC=C2)C2=CC(=CC=C2)OCCCO)=O | C24H30N2O4
reactant | 4-(1,3-dioxolan-2-ylmethyl)-benzoic acid | O1C(OCC1)CC1=CC=C(C(=O)O)C=C1 | C11H12O4
reactant | 1-amino-3,3-diethoxypropane | NCCC(OCC)OCC | C7H17NO2
product | 3-(3-(Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)propyl 4-((1,3-dioxolan-2-yl)methyl)benzoate | O1C(OCC1)CC1=CC=C(C(=O)OCCCOC2=CC(=CC=C2)C(NC(=O)O[C@H]2CN3CCC2CC3)C3=CC=CC=C3)C=C1 | C35H40N2O7
